US07402606B2
Preparation of (3S)-3-[(tert-butoxycarbonyl)amino]-2-hydroxyheptanoic acid
To a stirred solution of (3S)-3-amino-2-hydroxyheptanoic acid hydrochloride (25.6 g crude, 110.0 mmol) in 1N sodium hydroxide (300 mL) was added a solution of di-tert-butyldicarbonate (26.4 g, 121.2 mmol) in tetrahydrofuran (75 mL) over 30 min. After stirring at ambient temperature for 20 h, the reaction mixture was diluted with ether (100 mL) and the layers were separated. The aqueous layer was cooled in an ice bath, acidified to pH 2 with concentrated hydrochloric acid, and extracted with dichloromethane (2×150 mL). The dichloromethane layer was washed with brine (100 mL), dried with magnesium sulfate, and concentrated in vacuo to afford the title compound (21.7 g, 75% over 2 steps) as a thick paste. 1H NMR (400 MHz, DMSO-d6): δ 12.40 (broad, 1H), 6.45, 6.15 (2d, J=9 Hz, J=10 Hz, 1H), 5.20, 4.98 (2br, 1H), 3.89 (2d, J=12 Hz, J=10 Hz, 1H), 3.73-3.60 (m, 1H), 1.46-1.08 (m, 6H), 1.32, 1.31 (2s, 9H), 0.80 (t, J=6 Hz, 3H).

reactant | (3S)-3-amino-2-hydroxyheptanoic acid hydrochloride | 110.0 mmol, 25.6 g | Cl.N[C@H](C(C(=O)O)O)CCCC
reactant | di-tert-butyldicarbonate | 121.2 mmol, 26.4 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | sodium hydroxide | 1N, 300 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
solvent | ether | 100 mL | CCOCC | C4H10O
product | (3S)-3-[(tert-butoxycarbonyl)amino]-2-hydroxyheptanoic acid | 21.7 g, 75% | C(C)(C)(C)OC(=O)N[C@H](C(C(=O)O)O)CCCC | C12H23NO5
